US07528134B2
2-[4-(2-pyridinyl)-1-piperazinyl]-N-[4-(trifluoromethoxy)phenyl]acetamide
A mixture of 1-pyridin-2-ylpiperazine (24 mg, 0.15 mmol, Aldrich), N-(4-trifluoromethoxyphenyl)-2-chloroacetamide (51 mg, 0.20 mmol, Maybridge) and sodium carbonate (50 mg) in N,N-dimethylformamide/water (2:1, 2 mL) was shaken at room temperature for 18 hours. The resulting mixture was decanted, concentrated under reduced the residue was purified by preparative HPLC to provide 16 mg (32%) of the desired product. 1H NMR (500 MHz, DMSO-d6) δ 2.60 (t, J=4 Hz, 4H), 3.21 (s, 2H), 3.58 (t, J=4 Hz, 4H), 6.63 (t, J=5 Hz, 1H), 6.83 (d, J=6 Hz, 1H), 7.35 (d, J=6 Hz, 2H), 7.55 (t, J=6 Hz, 1H), 7.76 (m, 2H), 8.12 (d, J=5 Hz, 1H), 9.98 (s, 1H); MS (ESI/APCI+) m/e 381 (M+H)+.

reactant | 1-pyridin-2-ylpiperazine | 0.15 mmol, 24 mg | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | N-(4-trifluoromethoxyphenyl)-2-chloroacetamide | 0.20 mmol, 51 mg | FC(OC1=CC=C(C=C1)NC(CCl)=O)(F)F | C9H7ClF3NO2
reactant | sodium carbonate | 50 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide water | 2 mL | CN(C=O)C.O
product | 2-[4-(2-pyridinyl)-1-piperazinyl]-N-[4-(trifluoromethoxy)phenyl]acetamide | 16 mg, 32% | N1=C(C=CC=C1)N1CCN(CC1)CC(=O)NC1=CC=C(C=C1)OC(F)(F)F | C18H19F3N4O2
